US05523437
(R)-2-Methoxy-2'-di(4-chlorophenyl)phosphino-1,1'-binaphthyl prepared in Example 3 (7.93 mg, 14.78 mmol) and allylpalladium chloride dimer (1.35 mg, 3.69 μmol=7.38 μmol of palladium) were dissolved in toluene (6.95 g). In the solution, norbornene (6.95 g, 73.81 mmol) was added. After adding trichlorosilane (12.00 g, 88.59 mmol) at 0° C., the mixture was warmed to room temperature, followed by stirring at room temperature for 12 hours. Thereafter, from the reaction mixture, the solvent was evaporated off at 100° C. under reduced pressure of 1 Torr to obtain (1S, 2S, 4R)-2-trichlorosilylnorbornane (16.41 g). Isolation yield, 97%.

reactant | norbornene | 73.81 mmol, 6.95 g | C12C=CC(CC1)C2 | C7H10
reactant | trichlorosilane | 88.59 mmol, 12.00 g | Cl[SiH](Cl)Cl | Cl3HSi
solvent | toluene | 6.95 g | C1(=CC=CC=C1)C | C7H8
catalyst | allylpalladium chloride dimer | 3.69 μmol, 1.35 mg | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
product | (1S, 2S, 4R)-2-trichlorosilylnorbornane | 16.41 g | Cl[Si]([C@@H]1[C@H]2CC[C@@H](C1)C2)(Cl)Cl | C7H11Cl3Si
